US08492378B2
ethyl[[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]thio]acetate
In the same manner as in Example 1 and using 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol instead of 5-(benzothiazol-6-yl)-1,3,4-oxadiazole-2-thiol and ethyl bromoacetate instead of 3-(trifluoromethyl)benzyl chloride, the title compound (yield 54%) was obtained as colorless crystals.

reactant | 5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazole-2-thiol | O1CCC2=C1C=CC(=C2)C2=NN=C(O2)S | C10H8N2O2S
reactant | ethyl bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | ethyl[[5-(2,3-dihydro-1-benzofuran-5-yl)-1,3,4-oxadiazol-2-yl]thio]acetate | yield 54% | C(C)OC(CSC=1OC(=NN1)C=1C=CC2=C(CCO2)C1)=O | C14H14N2O4S
